US08084589B2
The amino group of 2-(2-(2-aminoethoxy)ethoxy)ethanol was protected as the trifluoroacetamide by reaction with excess of methyl trifluoroacetate to give in 98% yield. Briefly, methyl trifluoroacetate (3.20 g, 2.52 ml, 25 mmol) was added dropwise through a septum with stirring and gentle cooling to 2-(2-(2-aminoethoxy)ethoxy)ethanol (2.98 g, 20 mmol), and the mixture was sealed and left at room temperature for 24 hours. The volatiles were evaporated under membrane pump vacuum and bath temperature of 65° C. to give trifluoro-N-(2-(2-(2-hydroxyethoxy)ethoxy)ethyl)acetamide as a slightly yellowish oil which crystallized when stored in the refrigerator: 4.83 g, 98% yield. 1H NMR (DMSO-d6): δ 9.41 (t, 1H, NH), 4.57 (bs, 1H, OH), 3.55-3.28 (m, 12H, CH2); 13C NMR (DMSO-d6): δ 156.60 (q, J=36.1 Hz, CO), 115.96 (q, J=116 Hz, CF3), 73.15, 70.50, 70.46, 68.67, 61.08, 39.99.

reactant | 2-(2-(2-aminoethoxy)ethoxy)ethanol | NCCOCCOCCO | C6H15NO3
reactant | trifluoroacetamide | FC(C(=O)N)(F)F | C2H2F3NO
reactant | methyl trifluoroacetate | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | methyl trifluoroacetate | 25 mmol, 2.52 ml, 3.20 g | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | 2-(2-(2-aminoethoxy)ethoxy)ethanol | 20 mmol, 2.98 g | NCCOCCOCCO | C6H15NO3
product | trifluoro-N-(2-(2-(2-hydroxyethoxy)ethoxy)ethyl)acetamide | 98% yield | FC(C(=O)NCCOCCOCCO)(F)F | C8H14F3NO4
